US04873253
An inhibitor sample is dissolved in a 0.05 M Tris-hydrochloric acid buffer solution (pH=8.8) to make the total volume to 400 μl. To this solution, 50 μl of a 1 mM S-2444 solution is added and the mixture is incubated at a temperature of 37° C. for 5 minutes in a constant temperature bath. Then, 50 μl of a 500 unit/ml human urokinase is added and the mixture is incubated at a temperature of 37° C. for 5 minutes. Thereafter, 50 μl of 50% acetic acid is added to terminate the reaction. The absorbance of the p-nitroaniline formed in the reaction mixture is measured at 405 nm. Thus, the concentration I50 (μmol) of the inhibitor sample, at which the absorbance is one half (i.e., 1/2) of that obtained in the absence of the inhibitor sample, is determined.

reactant | S-2444 | 1 mM | C1CC(=O)N[C@@H]1C(=O)NCC(=O)N[C@@H](CCCN=C(N)N)C(=O)NC2=CC=C(C=C2)[N+](=O)[O-] | C19H26N8O6
reactant | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
solvent | Tris hydrochloric acid | 0.05 M, pH=8.8 | C(C(CO)(CO)N)O.Cl
product | p-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
